US05576340
2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(2-naphthyl)ethanol (Compound No. 3-7)
Following a procedure similar to that described in Example 6, but using 3 g of 2-amino-1-(2-naphthyl)ethanol (prepared as described in Preparation 9), 3.87 g of methyl 4-(2-oxopropoxy)phenylacetate (prepared as described in Preparation 3), 60 ml of benzene, 50 ml of absolute methanol and 2.49 g of sodium cyanoborohydride, 3.23 g of the title compound were obtained having an Rf=0.15 (thin layer chromatography over silica gel, using ethyl acetate as the developing solvent).

reactant | 2-amino-1-(2-naphthyl)ethanol | 3 g | NCC(O)C1=CC2=CC=CC=C2C=C1 | C12H13NO
reactant | methyl 4-(2-oxopropoxy)phenylacetate | 3.87 g | O=C(COC1=CC=C(C=C1)CC(=O)OC)C | C12H14O4
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
reactant | sodium cyanoborohydride | 2.49 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylmethylphenoxy)-1-methylethyl]amino-1-(2-naphthyl)ethanol | 3.23 g | COC(=O)CC1=CC=C(OCC(C)NCC(O)C2=CC3=CC=CC=C3C=C2)C=C1 | C24H27NO4
